US04716169
2-[4-Hydroxy-2-(N-methyl-methylsulphonamido)-phenyl]-imidazo[1,2-a]pyridine
1.1 g (3.6 mmol) of 2-(4-Hydroxy-2-methylsulphonamido-phenyl)-imidazo[1,2-a]pyridine are dissolved in 10 ml of dimethylsulphoxide, then 0.6 g (4.3 mmol) of potassium carbonate and 1.1 ml (18 mmol) of methyliodide are added. The mixture is stirred at ambient temperature for one hour. It is poured onto about 100 ml of ice water and the precipitate is suction filtered. It is then washed with water.

reactant | 2-(4-Hydroxy-2-methylsulphonamido-phenyl)-imidazo[1,2-a]pyridine | 3.6 mmol, 1.1 g | OC1=CC(=C(C=C1)C=1N=C2N(C=CC=C2)C1)NS(=O)(=O)C | C14H13N3O3S
reactant | potassium carbonate | 4.3 mmol, 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyliodide | 18 mmol, 1.1 ml | CI | CH3I
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-[4-Hydroxy-2-(N-methyl-methylsulphonamido)-phenyl]-imidazo[1,2-a]pyridine | OC1=CC(=C(C=C1)C=1N=C2N(C=CC=C2)C1)N(S(=O)(=O)C)C | C15H15N3O3S
